US07485732B2
Step 2: Tert-butyl 3-(3,5-difluorobenzoyl)azetidine-1-carboxylate
A solution of 1.19 g (4.87 mmol) of tert-butyl 3-{[methoxy(methyl)amino]carbonyl}azetidine-1-carboxylate in 15 mL of THF was added to a solution of 14.6 mL (7.31 mmol) of 3,5-difluorophenylmagnesium bromide (0.5M in THF). The reaction mixture was stirred for 2 h at 0° C., then poured into 100 mL of ether and washed with 10 mL of water. The organic layer was dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography with hexanes/ethyl acetate to afford the title compound. 1NMR(CDCl3) δ 1.48 (s, 9H), 4.08 (m, 1H), 4.24 (m, 4H), 7.36 (m, 1H), 7.38 (m, 2H).

reactant | tert-butyl 3-{[methoxy(methyl)amino]carbonyl}azetidine-1-carboxylate | 4.87 mmol, 1.19 g | CON(C(=O)C1CN(C1)C(=O)OC(C)(C)C)C | C11H20N2O4
reactant | 3,5-difluorophenylmagnesium bromide | 7.31 mmol, 0.5M, 14.6 mL | FC=1C=C(C=C(C1)F)[Mg]Br
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Tert-butyl 3-(3,5-difluorobenzoyl)azetidine-1-carboxylate | FC=1C=C(C(=O)C2CN(C2)C(=O)OC(C)(C)C)C=C(C1)F | C15H17F2NO3
